US07301022B2
N-(2-(6-(3-Amino-2-oxo-1,2-dihydroquinoxalin-5-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isobutylpiperidine-2-carboxamide.
A mixture of 3-amino-5-hydroxyquinoxalin-2(1H)-one (0.067 g, 0.38 mmol, prepared as described in WO04014871), N-(2-(6-chloropyrimidin-4-yl)-5-(trifluoromethyl)-phenyl)-1-isobutylpiperidine-2-carboxamide, Example 39(e), (0.14 g, 0.32 mmol) and Cs2CO3 (0.12 g, 0.38 mmol, Strem) in DMF (2.5 mL) was stirred for 3 d at 25° C. The mixture was diluted with aqueous solution of NaHCO3 (100 mL) and extracted with 1:1 mixture of EtOAc/hexane (2×75 mL). The combined extracts were washed with H2O (2×75 mL) and brine (75 mL), dried over Na2SO4, filtered, and evaporated under reduced pressure. Purification of the residue by silica gel column chromatography (gradient: 25-60% EtOAc/hexane) afforded the title compound as a white solid. MS (ESI, pos. ion.) m/z: 582 (M+1). Mp: >250° C.

reactant | 3-amino-5-hydroxyquinoxalin-2(1H)-one | 0.38 mmol, 0.067 g | NC=1C(NC2=CC=CC(=C2N1)O)=O | C8H7N3O2
reactant | N-(2-(6-chloropyrimidin-4-yl)-5-(trifluoromethyl)-phenyl)-1-isobutylpiperidine-2-carboxamide | ClC1=CC(=NC=N1)C1=C(C=C(C=C1)C(F)(F)F)NC(=O)C1N(CCCC1)CC(C)C | C21H24ClF3N4O
reactant | Cs2CO3 | 0.38 mmol, 0.12 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
product | N-(2-(6-(3-Amino-2-oxo-1,2-dihydroquinoxalin-5-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isobutylpiperidine-2-carboxamide | NC=1C(NC2=CC=CC(=C2N1)OC1=CC(=NC=N1)C1=C(C=C(C=C1)C(F)(F)F)NC(=O)C1N(CCCC1)CC(C)C)=O | C29H30F3N7O3
